US05892088
Preparation of (S)-3-N-Morphoryl carbamoyl-2-phenyl propanol
Except for using (S)-3-N-morphoryl carbamoyl-2-phenyl propanol acetate, instead of (S)-3-carbamoyl-2-phenyl propanol acetate as the starting material, the same procedure with that of Example 38 was repeated.

reactant | carbamoyl-2-phenyl propanol acetate | C(C)(=O)OC(C(C)C1=CC=CC=C1)C(N)=O | C12H15NO3
reactant | (S)-3-carbamoyl-2-phenyl propanol acetate | C(C)(=O)OC[C@@H](CC(N)=O)C1=CC=CC=C1 | C12H15NO3
product | carbamoyl-2-phenyl propanol | C(N)(=O)C(C(C)C1=CC=CC=C1)O | C10H13NO2
